Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
hydrocodone
 
Attending: ___
 
Chief Complaint:
Back pain, Chest pain, L Leg pain.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a lovely ___ F with metastatic neuroendocrine 
CA
originating in the rectum, HIV, HBV, GERD, and recent PE on
lovenox, who presented with one day of diffuse pain, especially
in her chest. 

A week prior to presentation, her chronic L flank/buttock/thigh
pain from known sacral mets increased in intensity. She 
presented
to the emergency room at an OSH, and was sent home with
oxycodone. Three days prior to presentation, she received 
started
C2D1 of etoposide/carboplatin. She tolerated 3 days of this 
well,
with the aid of antiemetics. On the day prior to presentation
(C2D3), she also received on-body neulasta. That night, she was
unable to sleep because of diffuse body pain, especially in her
chest, mid-back, and abdomen. She reported this pain is very
different from her chronic sacral pain, and did not respond to
her pain medications (MS contin 30 and oxycodone). Pain relieved
by walking around. No other associated symptoms, and she denies
fevers, headaches, dysphagia, nausea, vomiting, cough, SOB,
orthopnea, diarrhea, blood in stool, dysuria, abnormal vaginal
bleeding. She has constipation chronically, and just had a bowel
movement today.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
-___: mass found in rectum
-___: diagnosed with neuroendocrine tumor in rectum, began tx
with carboplatin/etoposide thru ___ w complete resolution
-___: local recurrence 
-___: topotecan 3 cycles + XRT
-___: PET/CT showed liver mets, presacral soft tissue mass
-___: 2 cycles of CAV
-after this, she left ___ and did not have any followup 
-___: presented to ___ showed 
several
lesions, bx showed "small cell carcinoma"
-___: admitted to ___ for new PE and liver mets, 
bx
showed "high grade neuroendocrine carcinoma"
-___: tx with carboplatin and etoposide
-___: neupogen

PAST MEDICAL HISTORY:  
-Neuroendocrine carcinoma of rectum
-PE diagnosed in ___, on Lovenox
-GERD
-HIV ___ years
-HBV
-s/p C-section
-s/p hernia repair
 
Social History:
___
Family History:
No known family history of cancer. Mother still alive, 5 
siblings. Father died in ___.
 
Physical Exam:
PHYSICAL EXAM:  
Vitals:  T98.5BP100 / 67 HR86 RR18 100%Ra
GENERAL: Well-appearing lady, looks younger than her age
HEENT: Sclera anicteric, MMM, OP clear of lesions/thrush/exudate
LUNGS: CTABL
CV: RRR, no murmurs, rubs or gallops
ABD: soft, non-distended, TTP over epigastric and sternal area,
bowel sounds present, no guarding or rebound 
EXT: warm, well-perfused, no edema
SKIN: bruising on lower abdomen and R thigh at sites of lovenox
injection
NEURO: AOx3, motor and sensory function grossly intact
ACCESS: double-lumen port

Discharge Exam:
Vitals:  98.4 PO 103 / 69 R Sitting 94 18 98 Ra 
GENERAL: Well-appearing lady, looks younger than her age
HEENT: Sclera anicteric, MMM, OP clear of lesions/thrush/exudate
LUNGS: CTABL
CV: RRR, no murmurs, rubs or gallops
ABD: soft, non-distended, mild TTP over epigastrium, bowel 
sounds present, no guarding or rebound 
EXT: warm, well-perfused, no edema
SKIN: bruising on lower abdomen and R thigh at sites of lovenox
injection
NEURO: AOx3, motor and sensory function grossly intact, normal 
gait
ACCESS: double-lumen port
 
Pertinent Results:
ADMISSION LABS
==============
___ 07:10AM BLOOD WBC:3.4* Hgb:9.9* Hct:30.7* Plt Ct:177
___ 07:10AM BLOOD ALT:56* AST:48* AlkPhos:113* TotBili:0.2
___ 07:10AM BLOOD Lipase:7
___ 01:05PM BLOOD cTropnT:<0.01
___ 07:10AM BLOOD cTropnT:<0.01
___ 07:10AM BLOOD Albumin:3.8 Calcium:8.7 Phos:2.7 Mg:2.2
___ 08:15AM BLOOD Lactate:1.1

DISCHARGE LABS:
===============
___ 05:25AM BLOOD WBC-2.1* RBC-3.01* Hgb-9.9* Hct-29.9* 
MCV-99* MCH-32.9* MCHC-33.1 RDW-18.0* RDWSD-65.9* Plt ___
___ 05:25AM BLOOD Neuts-74.5* ___ Monos-3.8* 
Eos-0.5* Baso-0.5 Im ___ AbsNeut-1.58* AbsLymp-0.42* 
AbsMono-0.08* AbsEos-0.01* AbsBaso-0.01
___ 05:25AM BLOOD Glucose-94 UreaN-9 Creat-0.7 Na-140 K-4.5 
Cl-104 HCO3-23 AnGap-13
___ 05:25AM BLOOD ALT-46* AST-43* LD(LDH)-313* AlkPhos-106* 
TotBili-0.3
___ 05:25AM BLOOD Calcium-8.4 Phos-2.8 Mg-2.6 Iron-297*
___ 05:25AM BLOOD calTIBC-___ VitB___-___* Ferritn-___* 
TRF-245

MICROBIOLOGY:
===============
___ URINE URINE CULTURE-FINAL NEGATIVE 
___ BLOOD CULTURE Blood Culture, Routine-PENDING
___ BLOOD CULTURE Blood Culture, Routine-PENDING 


IMAGING/STUDIES
===============
___ CXR
No evidence pneumonia or definite pneumothorax.

___ CT CHEST/ABD/PELVIS w CON
No pulmonary embolus or aortic abnormality.  Redemonstrated left 
presacral soft tissue mass with increased involvement of the 
left sacral neural foramina.  No fracture. Overall stable 
extensive hepatic metastatic lesions. No acute intra-abdominal 
process. 3 mm left lung apex pulmonary nodule not definitely 
seen on prior imaging. 
 
Brief Hospital Course:
Ms. ___ is a ___ lady with metastatic neuroendocrine 
tumor, HIV, HBV, and GERD, who presented with abdominal, chest, 
and back pain in the setting of recently starting chemotherapy. 

#Epigastric pain
Pt presented with epigastric pain radiating to the back. ED 
workup did not show evidence of ACS, PE, aortic dissection, PTX, 
or pancreatitis to explain her pain. Most likely GERD (given 
location) given improvement in her symptoms with Maalox. Patient 
takes omeprazole 20 mg daily at home, increased to 20 mg BID. 
Refused famotidine, citing prior stomach pain with it. Less 
likely to be from bone pain from neulasta given improvement 
overnight, deferred starting Claritin. H pylori stool antigen 
was sent lab but not pending on discharge. Consider testing if 
patient does not improve with trial of omeprazole. 

#Chronic pain on chronic opioids: Continued home MS contin and 
oxycodone. 

#Chronic constipation: Started standing bowel regimen with 
miralax and senna as constipation likely worsening abdominal 
symptoms. Counseled to dc senna if having frequent BMs.

#Neuroendocrine carcinoma
Known liver and pre-sacral mets. Pt started C2D1 of ___ 
+ neulasta on ___ at ___. Has outpt f/u scheduled w Dr. 
___. 

#Hx PE: continued home lovenox 70mcg BID

#HIV, HVB: chronic, stable, continued home Truvada and Tivicay + 
Bactrim ppx

#Macrocytic anemia, chronic: Hb appears at baseline however with 
increasing macrocytosis, iron studies c/w anemia of chronic 
disease, B12 level 1286.

TRANSITIONAL ISSUES:
=====================
- new medications for abdominal pain: omeprazole 20 mg BID, 
Maalox, viscous lidocaine PRN, bowel regimen to reduce reflux 
symptoms
- Consider testing for H pylori if patient does not improve with 
trial of omeprazole. 
- started on daily miralax and senna for chronic constipation
- 3 mm left lung apex pulmonary nodule not definitely seen on 
prior imaging was noted on CT chest ___.

# HCP/Contact: ___ (BROTHER) ___ 
# Code: full, confirmed
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dolutegravir 50 mg PO DAILY 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
3. Enoxaparin Sodium 70 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
4. Morphine SR (MS ___ 30 mg PO Q12H 
5. Ondansetron ODT ___ mg PO Q8H:PRN nausea 
6. OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate 
7. Prochlorperazine 10 mg PO Q6H:PRN nausea 
8. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
9. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Medications:
1.  Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
abdominal discomfort 
RX *alum-mag hydroxide-simeth 200 mg-200 mg-20 mg/5 mL ___ mL 
by mouth QID:PRN Disp #*1 Package Refills:*0 
2.  Omeprazole 20 mg PO BID 
RX *omeprazole 20 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
3.  Polyethylene Glycol 17 g PO DAILY constipation 
hold for loose stools 
RX *polyethylene glycol 3350 17 gram/dose 17 g by mouth daily 
Refills:*0 
4.  Senna 8.6 mg PO BID constipation  
5.  Dolutegravir 50 mg PO DAILY  
6.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  
7.  Enoxaparin Sodium 70 mg SC Q12H 
Start: Today - ___, First Dose: Next Routine Administration 
Time  
8.  Morphine SR (MS ___ 30 mg PO Q12H  
9.  Ondansetron ODT ___ mg PO Q8H:PRN nausea  
10.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Moderate  
11.  Prochlorperazine 10 mg PO Q6H:PRN nausea  
12.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Epigastric pain
Chronic constipation 
Chronic pain on chronic opioids
History of PE on anticoagulation
HIV
HBV 
Macrocytic anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital with pain in your stomach and chest.
You had tests that showed you did not have a heart attack or 
blood clot in your lungs.

You probably have irritation in your stomach called gastritis. 
You started new medicines for this and you started to feel 
better.

You started taking daily miralax and senna two times a day. If 
you start to have regular bowel movements and they get loose or 
too frequent, please hold these medications.

You can now safely return home and go to your previously 
scheduled appointments.

Please see below for new medicines.

It was a pleasure caring for you and we wish you the best.
Your ___ Team
 
Followup Instructions:
___